US07108895B2
Into a 20 L four-necked flask (flask B), 691 g of (S)-2-phenylpropionic chloride and 4.4 L of toluene were put and cooled to −10° C. in an atmosphere of nitrogen, and 1.41 g (4.00 mmol) of iron(III) acetylacetonate was added thereto. While maintaining the reaction temperature to be at most −10° C., the Grignard reagent prepared in the flask A was dropwise added thereto over a period of 4 hours in an atmosphere of nitrogen, and the temperature was raised to room temperature after completion of the dropwise addition, followed by stirring overnight, and then the mixture was cooled to 10° C., and 4 L of diluted hydrochloric acid was added thereto. The organic phase was separated, the aqueous phase was extracted with toluene, the toluene layer and the organic phase were put together, washed with water and saturated salt solution and dried over anhydrous magnesium sulfate, and the solvent was distilled off to obtain a crude product. The crude product was purified by silica gel column chromatography (developing solvent: hexane/toluene=1/1), and recrystallization from ethanol was carried out to obtain 329 g (1.34 mol) of (S)-1-(4-chlorophenyl)-2-phenylpropane-1-one [H-Ph-CH(CH3)—C(O)-Ph-Cl] as white crystals (yield: 34%).

reactant | (S)-2-phenylpropionic chloride | 691 g | C1(=CC=CC=C1)[C@@H](C(=O)Cl)C | C9H9ClO
reactant | hydrochloric acid | 4 L | Cl | ClH
catalyst | iron(III) acetylacetonate | 4.00 mmol, 1.41 g | C/C(=C/C(=O)C)/[O-].C/C(=C/C(=O)C)/[O-].C/C(=C/C(=O)C)/[O-].[Fe+3]
solvent | toluene | 4.4 L | C1(=CC=CC=C1)C | C7H8
product | (S)-1-(4-chlorophenyl)-2-phenylpropane-1-one | 1.34 mol, 329 g, yield: 34% | ClC1=CC=C(C=C1)C([C@@H](C)C1=CC=CC=C1)=O | C15H13ClO
